US04519937
Preparation of 5-(2-Methyl-1,3-dioxolan-2yl)-3-phenyl-2,1-benzisoxazole
Phenylacetonitrile (0.84 g, 7.2 mmol) and 2-methyl-2-(4-nitrophenyl)-1,3-dioxolane (mp. 69°-71° C. (1.50 g 7.2 mmol) were added to a room temperature solution of sodium hydroxide (1.44 g, 36 mmol) in methanol (8 ml). A slight exotherm was noted and stirring was continued for 16 hrs. The mixture was filtered and the collected solid washed several times with water and once with cold methanol to yield a yellow powder (1.60 g) with mp. 137° C. (lit. mp. 137°-138° C., see J. Heterocyclic Chem. 11, 107 (1974)).

reactant | Phenylacetonitrile | 7.2 mmol, 0.84 g | C1(=CC=CC=C1)CC#N | C8H7N
reactant | 2-methyl-2-(4-nitrophenyl)-1,3-dioxolane | CC1(OCCO1)C1=CC=C(C=C1)[N+](=O)[O-] | C10H11NO4
reactant | sodium hydroxide | 36 mmol, 1.44 g | [OH-].[Na+]
solvent | methanol | 8 ml | CO | CH4O
product | 5-(2-Methyl-1,3-dioxolan-2yl)-3-phenyl-2,1-benzisoxazole | 1.60 g | CC1(OCCO1)C=1C=CC=2C(=C(ON2)C2=CC=CC=C2)C1 | C17H15NO3
